US06500863B1
N-((2S)-Tetrahydrofurfuryl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-((2S)-tetrahydrofurfuryl)-2,6-dichloro-3-nitrobenzenesulfonamide (1.12 g, 3.15 mmol), 80% NaH (284 mg, 9.47 mmol) and water (0.057 mL, 3.16 mmol) were reacted to form the desired product (280 mg, 26%). EI-MS m/z 335(M-H)−.

reactant | N-((2S)-tetrahydrofurfuryl)-2,6-dichloro-3-nitrobenzenesulfonamide | 3.15 mmol, 1.12 g | C([C@@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H12Cl2N2O5S
reactant | NaH | 9.47 mmol, 284 mg | [H-].[Na+]
reactant | water | 3.16 mmol, 0.057 mL | O | H2O
product | N-((2S)-Tetrahydrofurfuryl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 280 mg, 26% | C([C@@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H13ClN2O6S
